US07723330B2
Step E: Preparation of N-(3-fluoro-4-(3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A stirred mixture of N-(4-(1-(4-methoxybenzyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (2 mg, 0.002767 mmol), and 2,2,2-trifluoroacetic acid (0.2132 ml, 2.767 mmol) was heated to 60° C. in a sealed vessel for 18 hours. After cooling to ambient temperature, the reaction was concentrated in vacuo, using toluene to azeotrope residual TFA. The resulting residue was dissolved in DCM, and purified by preparative TLC (0.5 mm thickness, Rf=0.50), eluting with 10% MeOH (containing 7N NH3) in DCM. The product was obtained as a pale yellow powder (1 mg, 48%). HPLC: 89% purity (220 nm); LRMS (APCI+): 100% purity, 220 nm, m/z 603 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 11.87 (s, 1H), 9.81 (s, 1H), 8.44 (m, 1H), 8.26 (m, 2H), 7.98 (m, 1H), 7.63 (m, 2H), 7.42 (m, 1H), 7.28 (m, 3H), 6.22 (m, 1H), 3.75 (m, 1H), 3.61 (m, 3H), 3.39 (s, 3H), 2.73 (m, 4H), 1.5-2.2 (m, 4H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.002767 mmol, 2 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)N3CCN(CC3)CCOC)C=C1 | C38H36F2N8O5
reactant | 2,2,2-trifluoroacetic acid | 2.767 mmol, 0.2132 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(3-fluoro-4-(3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 1 mg, 48% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2N2CCN(CC2)CCOC)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C30H28F2N8O4
